US06670372B2
Using the general method of Example 1 Part A, 2-(4-amino-2-methyl-6,7,8,9-tetrahydro-1H-imidazo[4,5-c]quinolin-1-yl)ethanol (0.763 g, 3.098 mmol) was reacted with propargyl bromide (80% in toluene, 1.1 mL, 9.29 mmol) to provide 0.42 g of 2-methyl-1-[2-(prop-2-ynyloxy)ethyl]-6,7,8,9-tetrahydro-1H-imidazo[4,5-c]quinolin-4-amine as a brown oil.

reactant | 2-(4-amino-2-methyl-6,7,8,9-tetrahydro-1H-imidazo[4,5-c]quinolin-1-yl)ethanol | 3.098 mmol, 0.763 g | NC1=NC=2CCCCC2C2=C1N=C(N2CCO)C | C13H18N4O
reactant | propargyl bromide | 9.29 mmol, 1.1 mL | C(C#C)Br | C3H3Br
product | 2-methyl-1-[2-(prop-2-ynyloxy)ethyl]-6,7,8,9-tetrahydro-1H-imidazo[4,5-c]quinolin-4-amine | 0.42 g | CC=1N(C2=C(C(=NC=3CCCCC23)N)N1)CCOCC#C | C16H20N4O
